US06002008
6-Dimethylamino-4-(3-methoxyphenylamino)quinoline-3-carbonitrile Hydrochloride
Prepared from 0.400 g of 4-chloro-6-dimethylaminoquinoline-3-carbonitrile and 0.256 g of 3-methoxyaniline in the same manner as Example 395. The yield of 6-dimethylamino-4-(3-methoxyphenylamino)quinoline-3-carbonitrile was 0.532 g of brown powder: mass spectrum (electrospray, m/e): M+H 318.9.

reactant | 4-chloro-6-dimethylaminoquinoline-3-carbonitrile | 0.400 g | ClC1=C(C=NC2=CC=C(C=C12)N(C)C)C#N | C12H10ClN3
reactant | 3-methoxyaniline | 0.256 g | COC=1C=C(N)C=CC1 | C7H9NO
reactant | 6-dimethylamino-4-(3-methoxyphenylamino)quinoline-3-carbonitrile | CN(C=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC)C | C19H18N4O
product | 6-Dimethylamino-4-(3-methoxyphenylamino)quinoline-3-carbonitrile Hydrochloride | Cl.CN(C=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC)C | InChI=1S/C19H18N4O.ClH/c1-23(2)15-7-8-18-17(10-15)19(13(11-20)12-21-18)22-14-5-4-6-16(9-14)24-3;/h4-10,12H,1-3H3,(H,21,22);1H
